US06297250B1
2,6-Di(2′-hydroxyethoxy)-4,8-dipiperidinopyrimidopyrimidine (NU3086)
Ethylene glycol (0.56 ml, 10 mmol) was dissolved in dry THF (10 ml), then added to sodium hydride (0.24 g, 10 mmol) and stirred at room temperature for 6 hours. 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine (0.184 g, 0.5 mmol) in dry THF (25 ml) was added and the mixture heated under reflux for 96 hours. After cooling to room temperature, water (30 ml) was added and the product extracted into ethyl acetate (4×20 ml). The organic layers were combined, dried (MgSO4), filtered and solvent removed in vacuo. Purification was carried out by column chromatography on silica gel, with dichloromethane: methanol (95:5) as eluent. This gave the title compound as an off-white solid (0.1 g, 45%), m.p. 148-150° C. Found: C, 57.54; H, 7.21; N, 19.41. C20H30N6O4 requires C, 57.40; H, 7.23; N, 20.08%.

reactant | Ethylene glycol | 10 mmol, 0.56 ml | C(CO)O | C2H6O2
reactant | sodium hydride | 10 mmol, 0.24 g | [H-].[Na+]
reactant | 2,6-dichloro-4,8-dipiperidinopyrimidopyrimidine | 0.5 mmol, 0.184 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CCCCC2)N1)N1CCCCC1 | C16H20Cl2N6
reactant | water | 30 ml | O | H2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 25 ml | C1CCOC1 | C4H8O
product | 2,6-Di(2′-hydroxyethoxy)-4,8-dipiperidinopyrimidopyrimidine | 0.1 g, 45% | OCCOC=1N=C(C2=C(C(=NC(=N2)OCCO)N2CCCCC2)N1)N1CCCCC1 | C20H30N6O4
